US06410534B1
Step C: l-Amino-7-(tert-butyldiphenylsilyloxy)naphthalene hydrochloride
A solution of 1-(tert-butoxycarbonylamino)-7-(tert-butyldiphenylsilyloxy)naphthalene, as described above in Step B, (1.54 g, 3.09 mmol) in EtOAc (80 mL) and Et2O (20 mL) at ambient temperature was saturated with HCl (g). After 1 hr, the mixture was concentrated in vacuo to yield the desired product as a pale solid.

reactant | 1-(tert-butoxycarbonylamino)-7-(tert-butyldiphenylsilyloxy)naphthalene | C(C)(C)(C)OC(=O)NC1=CC=CC2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C31H35NO3Si
reactant | Et2O | 20 mL | CCOCC | C4H10O
reactant | HCl | Cl | ClH
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
product | l-Amino-7-(tert-butyldiphenylsilyloxy)naphthalene hydrochloride | Cl.NC1=CC=CC2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | InChI=1S/C26H27NOSi.ClH/c1-26(2,3)29(22-12-6-4-7-13-22,23-14-8-5-9-15-23)28-21-18-17-20-11-10-16-25(27)24(20)19-21;/h4-19H,27H2,1-3H3;1H
